US08012956B2
A solution of methyl 3-hydroxy-2-methyl-4-prop-2-en-1-ylbenzoate (1.64 g, 8.0 mmol) in methanol (20 mL) was cooled to −78° C. While maintaining the reaction temperature at −78° C., ozone was bubbled into the reaction mixture for 30 minutes, followed by the addition of dimethyl sulfide (5 mL). The reaction mixture was allowed to warm to room temperature and was then stirred for an additional 15 hours. The reaction mixture was concentrated in vacuo and diluted with diethyl ether. The organic portion was washed with water, brine, dried over sodium sulfate and concentrated to afford (1.59 g, 90%) of methyl 7-methyl-2-(methyloxy)-2,3-dihydro-1-benzofuran-6-carboxylate as a yellow oil. MS (EI) for C12H14O4: 223 (MH+).

reactant | methyl 3-hydroxy-2-methyl-4-prop-2-en-1-ylbenzoate | 8.0 mmol, 1.64 g | OC=1C(=C(C(=O)OC)C=CC1CC=C)C | C12H14O3
reactant | methanol | 20 mL | CO | CH4O
product | methyl 7-methyl-2-(methyloxy)-2,3-dihydro-1-benzofuran-6-carboxylate | 1.59 g, 90% | CC1=C(C=CC=2CC(OC21)OC)C(=O)OC | C12H14O4
